US06380210B1
A solution of 2.0 g (5.6 mmole) of 1-{[2-(chloromethyl)-1-propylbenzimidazol-5-yl]methoxy}-1,1,2,2-tetramethyl-1-silapropane in 20 mL of anhydrous acetonitrile is treated with 10 mL of propylamine for 16 hr at room temperature. The solvent is removed in vacuo and the residue is partitioned between 30 mL of ethyl acetate and 10 mL of 1 N NaOH. The ethyl acetate layer is dried over anhydrous Na2SO4 and solvent removed in vacuo to afford 2.1 g (99%) of propyl({1-propyl-5-[(1,1,2,2-tetramethyl-1-silapropoxy)methyl]benzimidazol-2-yl}methyl)amine.

reactant | 1-{[2-(chloromethyl)-1-propylbenzimidazol-5-yl]methoxy}-1,1,2,2-tetramethyl-1-silapropane | 5.6 mmole, 2.0 g | ClCC1=NC2=C(N1CCC)C=CC(=C2)CO[Si](C(C)(C)C)(C)C | C18H29ClN2OSi
reactant | propylamine | 10 mL | C(CC)N | C3H9N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | propyl({1-propyl-5-[(1,1,2,2-tetramethyl-1-silapropoxy)methyl]benzimidazol-2-yl}methyl)amine | 2.1 g, 99% | C(CC)NCC1=NC2=C(N1CCC)C=CC(=C2)CO[Si](C(C)(C)C)(C)C | C21H37N3OSi
